US03943147
Step 1. 3-(p-chlorophenyl)-3-[2-(4-methylphenylsulfonylamino)ethylamino]phthalide.
To a flask equipped with a Dean-Stark water separator is charged 500 ml. of toluene, 24.0 g. (0.10 mole) of 2-(p-chlorobenzoyl) benzoic acid and 21.4 g. (0.10 mole) of N-(2-aminoethyl)-4-methylbenzene sulfonamide. The mixture is stirred and refluxed until the water level in the separator is constant. The reaction is then allowed to cool to room temperature and the resultant solid is filtered off, washed with 100 ml. of toluene and dried to give the above named phalide; m.p. 177°-179°C.: infrared (KBr), peaks at 3.00, 3.09, 3.37, 3.42, 3.48, 5.76, 6.25, 6.71, 7.42, 7.72, 8.58, 9.12, 9.90, 11.45, 12.80, 13.70, 17.30 and 18.20μ; ultraviolet (95% ethanol) maximum at 226 mμ (E 1cm 1% 637), 257 mμ (shoulder); N.M.R. (pyridine- d6) δ 2.22 (CH3), 3.57(4H, NCH2CH2N unresolved multiplet). Analysis: Calculated for C23H21ClN2O4S: C 60.4; H 4.6; N 6.1; Cl 7.8; S 7.0; Found: C 60.2; H 4.9; N 6.1; Cl 7.7; S 7.7.

reactant | 2-(p-chlorobenzoyl) benzoic acid | 0.10 mole | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
reactant | N-(2-aminoethyl)-4-methylbenzene sulfonamide | 0.10 mole | NCCNS(=O)(=O)C1=CC=C(C=C1)C | C9H14N2O2S
reactant | KBr | [K+].[Br-]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(p-chlorophenyl)-3-[2-(4-methylphenylsulfonylamino)ethylamino]phthalide | ClC1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)NCCNS(=O)(=O)C1=CC=C(C=C1)C | C23H21ClN2O4S
